US06815458B2
4-(4-Methylbenzylamino)-tropane (47AKU-17)
4-Methylbenzylamine (607 mg, 5.0 mmol) was dissolved in 10 ml methanol and placed in 100 ml flask. Tropinone (697 mg, 5.0 mmol) in 10 ml methanol was added. Acetic acid (0.75 ml) was added until pH˜5. NaCNBH3 (628 mg, 10 mmol) was slowly added. Gas evolution observed. After 20 hrs magnetic stirring dichloromethane, 2M NaOH and water were added until pH˜10. Phases were separated and aq. phase was then re-extracted with dichloromethane. Combined organic phases were dried over MgSO4. Concentration on Rotavapor (40° C.) yielded 1.14 g crude 47AKU-17. TLC (10% methanol in dichloromethane): Rf=0.4. HPLC-MS (Method A): M+=245.2 (UV/MS(%)=65/96).

reactant | 4-Methylbenzylamine | 5.0 mmol, 607 mg | CC1=CC=C(CN)C=C1 | C8H11N
reactant | Tropinone | 5.0 mmol, 697 mg | CN1C2CCC1CC(=O)C2 | C8H13NO
reactant | NaCNBH3 | 10 mmol, 628 mg | [BH3-]C#N.[Na+]
reactant | NaOH | 2M | [OH-].[Na+]
solvent | methanol | 10 ml | CO | CH4O
solvent | methanol | 10 ml | CO | CH4O
solvent | dichloromethane | ClCCl | CH2Cl2
solvent | water | O | H2O
solvent | Acetic acid | 0.75 ml | C(C)(=O)O | C2H4O2
product | 4-(4-Methylbenzylamino)-tropane | CC1=CC=C(CNC2CC[C@H]3CC[C@@H]2N3C)C=C1 | C16H24N2
